US08486979B2
6-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzo[d]oxazol-2(3H)-one
The title compound was prepared according to Method C using 2-oxo-2,3-dihydrobenzo[d]oxazole-6-carboxylic acid (Eur. J. Med. Chem. 1974, 9, 491-6.) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.35 (d, J=8.7 Hz, 1 H), 7.65 (dd, J=7.5, 4.4 Hz, 1 H), 8.04 (d, J=1.6 Hz, 1 H), 8.07 (s, 1 H), 8.44 (dt, J=7.9, 2.0 Hz, 1 H), 8.82 (dd, J=4.8, 1.6 Hz, 1 H), 9.25 (d, J=1.6 Hz, 1 H) ppm; MS (DCI/NH3) m/z 281 (M+H)+.

reactant | 2-oxo-2,3-dihydrobenzo[d]oxazole-6-carboxylic acid | O=C1OC2=C(N1)C=CC(=C2)C(=O)O | C8H5NO4
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 6-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)benzo[d]oxazol-2(3H)-one | N1=CC(=CC=C1)C1=NOC(=N1)C1=CC2=C(NC(O2)=O)C=C1 | C14H8N4O3
